US04727180
To a solution of 15 g (0.05 mole) 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzaldehyde in 50 ml of pyridine are added 11 g (0.11 mole) of malonic acid and 1 g of piperidine. The solution is stirred and gradually heated to 80°. Heating and stirring are continued for 1 hour at 80°. The solution is then heated at reflux for an additional 3 hours, cooled, and evaporated at reduced pressure to obtain a residual oil which is extracted into ether. The resulting ether solution is washed with water and 1N hydrochloric acid, dried with anhydrous magnesium sulfate, filtered, and evaporated at reduced pressure to obtain a residual solid which is recrystallized from chlorobutane/hexane mixed solvent to give 10.5 g of 3-{2 -methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-2-propenoic acid having a melting point of 138°-140°.

reactant | 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzaldehyde | 0.05 mole, 15 g | COC1=C(C=O)C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O | C11H8F6O3
reactant | malonic acid | 0.11 mole, 11 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1 g | N1CCCCC1 | C5H11N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-{2 -methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-2-propenoic acid | 10.5 g | COC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)C=CC(=O)O | C13H10F6O4
